US08304432B2
4-(4-Fluoro-2-hydroxymethylphenyl)piperidine-1-carboxylic Acid t-Butyl Ester
Methyl 2-bromo-5-fluorobenzoate (1.8 g, 7.5 mmol), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester (2.3 g, 7.5 mmol), THF (69 mL, 850 mmol) and 2 M of sodium carbonate in water (15.0 mL, 30.0 mmol) were combined, and the mixture was degassed and flushed with nitrogen. Bis(triphenylphosphine)palladium(II) chloride (158 mg, 225 μmol) was added, and the mixture was again degassed and flushed with nitrogen. The mixture was heated at 80° C. for 1 hour. The mixture was then cooled and the layers separated, diluted with EtOAc (50 mL), washed with saturated aqueous NaCl (30 mL), dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by flash chromatography (0-50% EtOAc in hexanes). A solution of the crude material and Pearlman's Catalyst (0.1:0.4, Palladium hydroxide:carbon black, 1.1 g, 1.5 mmol) in MeOH (60.8 mL, 150 mmol) was hydrogenated at 1 atm at room temperature overnight. The mixture was then evacuated, purged with nitrogen, filtered through Celite® and concentrated to yield a colorless oil. This oil was dissolved in THF (30 mL, 400 mmol) and treated with borane-dimethyl sulfide complex (1.3 mL, 15.0 mmol) at room temperature. The mixture was heated to reflux for 5 hours. After cooling to room temperature, MeOH (20 mL) was slowly added and removed by rotary evaporation. Another 20 mL of MeOH was added and removed by rotary evaporation. The residue was then dissolved in EtOAc (100 mL) and washed with 1N HCl and sat. NaHCO3, dried over Na2SO4, filtered and concentrated. The material was then purified by silica gel chromatography (0-50% EtOAc in hexanes) to yield the title compound (924 mg) as a colorless sticky solid.

reactant | Methyl 2-bromo-5-fluorobenzoate | 7.5 mmol, 1.8 g | BrC1=C(C(=O)OC)C=C(C=C1)F | C8H6BrFO2
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | 7.5 mmol, 2.3 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | THF | 850 mmol, 69 mL | C1CCOC1 | C4H8O
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 30.0 mmol, 15.0 mL | O | H2O
reactant | THF | 400 mmol, 30 mL | C1CCOC1 | C4H8O
catalyst | Pearlman's Catalyst | 1.5 mmol, 1.1 g | [OH-].[OH-].[Pd+2]
catalyst | Bis(triphenylphosphine)palladium(II) chloride | 225 μmol, 158 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | MeOH | 20 mL | CO | CH4O
solvent | MeOH | 150 mmol, 60.8 mL | CO | CH4O
product | 4-(4-Fluoro-2-hydroxymethylphenyl)piperidine-1-carboxylic Acid t-Butyl Ester | 924 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=C(C=C1)F)CO | C17H24FNO3
